US09169254B2
2-[3-(2-{2-[2-(tert-Butoxycarbonyl-methyl-amino)-ethoxy]-ethoxy}-ethoxy)-5-trifluoromethyl-phenyl]-8-[2-(4-tert-butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester (37.4 mg, 39.7 μmol) was dissolved in 4 N hydrochloric acid-dioxane (0.79 mL). Water (14.3 μL, 795 μmol) was added and the mixture was stirred at room temperature for three hours. The reaction solution was concentrated under reduced pressure to give 3-methyl-4-{2-[2-(3-{2-[2-(2-methylamino-ethoxy)-ethoxy]-ethoxy}-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-benzoic acid hydrochloride (28.0 mg, 98%).

reactant | 2-[3-(2-{2-[2-(tert-Butoxycarbonyl-methyl-amino)-ethoxy]-ethoxy}-ethoxy)-5-trifluoromethyl-phenyl]-8-[2-(4-tert-butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester | 39.7 μmol, 37.4 mg | C(C)(C)(C)OC(=O)N1C(=NC2(C1=O)CCN(CC2)S(=O)(=O)CCC2=C(C=C(C=C2)C(=O)OC(C)(C)C)C)C2=CC(=CC(=C2)C(F)(F)F)OCCOCCOCCN(C)C(=O)OC(C)(C)C | C45H63F3N4O12S
reactant | Water | 795 μmol, 14.3 μL | O | H2O
reactant | hydrochloric acid dioxane | 4 N, 0.79 mL | Cl.O1CCOCC1
product | 3-methyl-4-{2-[2-(3-{2-[2-(2-methylamino-ethoxy)-ethoxy]-ethoxy}-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-benzoic acid hydrochloride | 28.0 mg, 98% | Cl.CC=1C=C(C(=O)O)C=CC1CCS(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC(=C2)C(F)(F)F)OCCOCCOCCNC)=O)CC1 | InChI=1S/C31H39F3N4O8S.ClH/c1-21-17-23(28(39)40)4-3-22(21)5-16-47(42,43)38-9-6-30(7-10-38)29(41)36-27(37-30)24-18-25(31(32,33)34)20-26(19-24)46-15-14-45-13-12-44-11-8-35-2;/h3-4,17-20,35H,5-16H2,1-2H3,(H,39,40)(H,36,37,41);1H
